US04235930
(5Z,13E)-(11R,15R)-16,16-Dimethyl-11,15-dihydroxy-9-oxo-5,13-prostadien-18-ynoic Acid Methylsulfonamide
At 25°, 400 mg. of (5Z,13E)-(11R,15R)-16,16-dimethyl-9-oxo-11,15-bis(tetrahydropyran-2-yloxy)-5,13-prostadien-18-ynoic acid methylsulfonamide is agitated for 16 hours with 12 ml. of a mixture of glacial acetic acid/water/THF (65/35/10). The mixture is evaporated under vacuum and the residue purified by column chromatography on silica gel. With methylene chloride/2-5% methanol 202 mg. of the title compound is obtained in the form of an oil.

reactant | (5Z,13E)-(11R,15R)-16,16-dimethyl-9-oxo-11,15-bis(tetrahydropyran-2-yloxy)-5,13-prostadien-18-ynoic acid methylsulfonamide | CS(=O)(=O)N.CC([C@@H](/C=C/[C@H]1[C@@H](CC([C@@H]1C\C=C/CCCC(=O)O)=O)OC1OCCCC1)OC1OCCCC1)(CC#CC)C
solvent | acetic acid water THF | C(C)(=O)O.O.C1CCOC1
product | (5Z,13E)-(11R,15R)-16,16-Dimethyl-11,15-dihydroxy-9-oxo-5,13-prostadien-18-ynoic Acid Methylsulfonamide | CS(=O)(=O)N.CC([C@@H](/C=C/[C@H]1[C@@H](CC([C@@H]1C\C=C/CCCC(=O)O)=O)O)O)(CC#CC)C | InChI=1S/C22H32O5.CH5NO2S/c1-4-5-14-22(2,3)20(25)13-12-17-16(18(23)15-19(17)24)10-8-6-7-9-11-21(26)27;1-5(2,3)4/h6,8,12-13,16-17,19-20,24-25H,7,9-11,14-15H2,1-3H3,(H,26,27);1H3,(H2,2,3,4)/b8-6-,13-12+;/t16-,17-,19-,20-;/m1./s1
